US08067408B2
To a solution of 2-amino-3-(methyloxy)benzoic acid (15.0 g, 89.7 mmol) in MeOH (100 mL), NBS (16.8 g, 94.2 mmol) was added at −5° C. The reaction was kept stirring at 0° C. overnight, then put into the ice water under the condition of stirring. A precipitate formed and was filtered over Celite and dried in vacuo to afford 2-amino-5-bromo-3-(methyloxy)benzoic acid (22.0 g, 99%). 1H NMR (400 MHz, CDCl3): δ 7.65 (s, 1 H), 6.93 (s, 1 H), 3.87 (s, 3 H).

reactant | 2-amino-3-(methyloxy)benzoic acid | 89.7 mmol, 15.0 g | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | NBS | 94.2 mmol, 16.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | MeOH | 100 mL | CO | CH4O
product | 2-amino-5-bromo-3-(methyloxy)benzoic acid | 22.0 g, 99% | NC1=C(C(=O)O)C=C(C=C1OC)Br | C8H8BrNO3
